US07312225B2
10c) Production of 1-[3-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-(3-nitro-phenyl)-urea
A solution of 1.6 g (6.7 mmol) of 1-(3-amino-propyl)-3-(3-nitro-phenyl)-urea in 30 ml of acetonitrile is mixed with a solution of 1.6 g (7.0 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 10 ml of acetonitrile. 2.0 ml of triethylamine is added, and it is stirred for 90 minutes at room temperature. It is diluted with ethyl acetate (150 ml) and washed with citric acid (10%), saturated NaHCO3 solution as well as saturated NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate 1:1). 1.7 g (4.0 mmol, corresponding to 60% of theory) of the product is obtained.

reactant | 1-(3-amino-propyl)-3-(3-nitro-phenyl)-urea | 6.7 mmol, 1.6 g | NCCCNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C10H14N4O3
reactant | 5-bromo-2,4-dichloro-pyrimidine | 7.0 mmol, 1.6 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-(3-nitro-phenyl)-urea | BrC=1C(=NC(=NC1)Cl)NCCCNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H14BrClN6O3
